US04426382
4-Amino-6,7-dimethoxy-2-[4-(trans-2-phenylcyclopropylcarbonyl)-1-piperazinyl]quinazoline hydrochloride dihydrate (Compound No. 34 hydrochloride dihydrate)
To 25 ml of isopentanol were added 1.2 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline and 1.4 g of 1-(trans-2-phenylcyclopropylcarbonyl)piperazine, and the resulting mixture was heated under reflux for 4 hours. The crystals thus produced were collected by filtration and neutralized by the addition of a 20% w/w aqueous solution of sodium hydroxide. The resulting mixture was extracted with chloroform and the extract was charged into a silica gel chromatography column and eluted with chloroform. A 10% w/w solution of hydrogen chloride in ethanol was added to the eluate and the crystals thus produced were collected by filtration, giving 1.22 g of the desired Compound No. 34 hydrochloride dihydrate in the form of colourless powdery crystals melting at 195°-198° C. (with decomposition).

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 1.2 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 1-(trans-2-phenylcyclopropylcarbonyl)piperazine | 1.4 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)N1CCNCC1 | C14H18N2O
solvent | isopentanol | 25 ml | C(CC(C)C)O | C5H12O
product | 4-Amino-6,7-dimethoxy-2-[4-(trans-2-phenylcyclopropylcarbonyl)-1-piperazinyl]quinazoline hydrochloride dihydrate | 1.22 g | O.O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | InChI=1S/C24H27N5O3.ClH.2H2O/c1-31-20-13-18-19(14-21(20)32-2)26-24(27-22(18)25)29-10-8-28(9-11-29)23(30)17-12-16(17)15-6-4-3-5-7-15;;;/h3-7,13-14,16-17H,8-12H2,1-2H3,(H2,25,26,27);1H;2*1H2/t16-,17+;;;/m0.../s1
